US07268157B2
Preparation of 2-[1-methyl-3-oxo-3-(4-fluorophenyl)-propenylamino]-3-(4-hydroxyphenyl)-propionic acid methyl ester
To a solution of L-tyrosine methyl ester (4.00 g, 20.51 mmol) in methanol (150 ml) is added 1-(4-fluorobenzoyl)acetone (4.06 g, 22.56 mmol), then the mixture is heated to reflux for 24 h. The solvent is evaporated under a vacuum. To the residue is added ethanol (50 ml), then the ethanol is distilled off under atmospheric pressure. The crude product is purified by silica gel chromatography using hexane/EtOAc (4:1) as eluent to give the title compound (7.03 g, 96%).

reactant | L-tyrosine methyl ester | 20.51 mmol, 4.00 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
reactant | 1-(4-fluorobenzoyl)acetone | 22.56 mmol, 4.06 g | FC1=CC=C(C(=O)CC(=O)C)C=C1 | C10H9FO2
solvent | methanol | 150 ml | CO | CH4O
product | 2-[1-methyl-3-oxo-3-(4-fluorophenyl)-propenylamino]-3-(4-hydroxyphenyl)-propionic acid methyl ester | 7.03 g, 96% | COC(C(CC1=CC=C(C=C1)O)NC(=CC(C1=CC=C(C=C1)F)=O)C)=O | C20H20FNO4
